US07935830B2
Step D. 1,2,3,3a,8,8a-Hexahydroindeno[1,2-c]pyrrole
A solution of 3,3a,8,8a-tetrahydro-2H-2-aza-cyclopenta[a]inden-1-one (1.5 g, 8.8 mmol) in THF (44 mL) was cannulated to a solution of LAH in THF (26.4 mL, 1.0 M solution in THF). The resulting solution was stirred for 4 hours at 70° C., then overnight at room temperature. The reaction was quenched via the stepwise addition of H2O (1 mL), aqueous NaOH (1 mL, 2.0 M solution), and H2O (3 mL). The resulting mixture was filtered through celite, the celite washed with warm MeOH (200 mL), and the filtrate concentrated to give the subtitle compound and its regioisomer, which were used without further purification. MS calculated for C11H13N+H: 160, observed: 160.

reactant | 3,3a,8,8a-tetrahydro-2H-2-aza-cyclopenta[a]inden-1-one | 8.8 mmol, 1.5 g | C1(NCC2C1CC=1C=CC=CC21)=O | C11H11NO
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 44 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 M, 26.4 mL | C1CCOC1 | C4H8O
product | 1,2,3,3a,8,8a-Hexahydroindeno[1,2-c]pyrrole | C1C2C(CN1)C=1C=CC=CC1C2 | C11H13N
